data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_675627_2,[C:1]([C:6]([N:5]([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[H:20])=[O:9])([O:7][C:2]([H:12])([H:13])[H:14])([O:8][H:10])[H:11]>>[C:1]1([O:8][H:10])([H:11])[C:6]([N:5]([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[H:20])([O:7][C:2]([H:12])([H:13])[H:14])[O:9]1,72.64943999998906
MR_76447_0,[N:1](/[C:2]([N:3]([H:9])[H:10])=[C:5](\[N:4]([H:11])[H:12])[H:13])([C:6](=[C:7]([H:15])[H:16])[H:14])[H:8]>>[N:1](=[C:2](\[N:3]([H:9])[H:10])[C@@:5]([N:4]([H:11])[H:12])([C:6](=[C:7]([H:15])[H:16])[H:14])[H:13])\[H:8],59.337654999961984
MR_190086_0,[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([O:9][H:13])=[O:10])[H:14])([C:5](=[C:6]([H:19])[H:20])[H:15])([O:7][H:11])[O:8][H:12]>>[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([C:5](=[C:6]([H:19])[H:20])[H:15])([O:9][H:13])[O:10][H:12])[H:14])([O:7][H:11])=[O:8],66.48362500000445
MR_663894_1,[C:1]1([H:10])([H:11])[C:6]([C:5](=[C:2]([H:14])[H:19])[C:3]([H:15])([H:16])[H:17])([H:9])[C:7]1([C:8]([C:4]([H:20])([H:21])[H:22])([H:13])[H:18])[H:12]>>[C:1]([C:6](=[C:5]([C:2]([H:14])([H:18])[H:19])[C:3]([H:15])([H:16])[H:17])[H:9])(/[C:7](=[C:8](/[C:4]([H:20])([H:21])[H:22])[H:13])[H:12])([H:10])[H:11],49.20352999997334
MR_141789_0,[C:1]1([N:4]([C:3]([H:12])([H:13])[H:14])[C:5](=[C:6]([H:15])[H:16])[H:11])([H:8])[C:2]([H:9])([H:10])[O:7]1>>[C@@:1]1([N:4]([C:3]([H:12])([H:13])[H:14])[C:5](=[C:6]([H:15])[H:16])[H:11])([H:8])[C:2]([H:9])([H:10])[O:7]1,52.661054999982895
MR_9664_0,[C:1](=[N:3]/[H:9])(\[O:4][H:6])[N:5]([N:2]([H:7])[H:8])[H:10]>>[C:1](\[N:3]([H:9])[H:10])([O:4][H:6])=[N:5]/[N:2]([H:7])[H:8],41.701139999974686
MR_379806_1,[C:1]([C:4]([O:6][H:8])[N:7][N:2]([N:3]([N:5]([H:11])[H:12])[H:10])[H:9])([H:13])([H:14])[H:15]>>[C:1]([C@@:4]([N:3]([N:5]([H:11])[H:12])[H:10])([O:6][H:8])/[N:7]=[N:2]\[H:9])([H:13])([H:14])[H:15],39.31601250000412
MR_479423_1,[C:1](/[C:3]([C:2]([N:4]([H:10])[H:11])=[O:8])=[N:7]/[H:16])([N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[H:9]>>[C:1]1([N:5]([H:12])[H:13])([H:9])[C:3]([C:2]([N:4]([H:10])[H:11])=[O:8])([N:6]([H:14])[H:15])[N:7]1[H:16],56.84773500000631
MR_573441_2,[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([C:6]([N:7]([H:14])[H:15])=[O:10])[H:13])([C:3]([C:5]([H:21])([H:22])[H:23])([H:16])[H:17])([O:8][H:11])[O:9][H:12]>>[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([C:6]([C:3]([C:5]([H:21])([H:22])[H:23])([H:16])[H:17])([N:7]([H:14])[H:15])[O:10][H:12])[H:13])([O:8][H:11])=[O:9],68.85181000008913
MR_176646_1,[N:1]([N:2]([H:6])[H:7])([N:3]([H:8])[H:9])/[C:4](=[N:5]/[H:10])[H:11]>>[N:1](\[N:2]([H:6])[H:7])=[C:4](\[N:5]([N:3]([H:8])[H:9])[H:10])[H:11],68.89071500002657
MR_230172_0,[C:1]([C:4](=[C:2]([O:6][H:10])[O:7][H:9])[C:3](=[C:5]([H:15])[H:16])[O:8][H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:3]([O:8][H:11])[C:5]([H:15])([H:16])[C:2]1([O:6][H:10])[O:7][H:9])([H:12])([H:13])[H:14],36.06430750000996
MR_83610_0,[C:1]([N:2]([C:3]([N:4]([H:8])[H:9])=[O:6])[C:5](=[O:7])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:2][C:5]([O:7][C:3]([N:4]([H:8])[H:9])=[O:6])[H:10])([H:11])([H:12])[H:13],49.64905499998992
MR_7076_0,[C:1]1([O:6][H:7])([H:8])[C@:2]([C:4]([H:11])([H:13])[H:14])([H:9])[C@@:3]1([C:5]([H:12])([H:15])[H:16])[H:10]>>[C:1](\[C@:2]([C:4]([H:11])([H:13])[H:14])([O:6][H:7])[H:9])(=[C:3](/[C:5]([H:12])([H:15])[H:16])[H:10])[H:8],67.72607500000646
MR_137280_1,[C:1]1([H:10])([H:11])[C:2]([H:13])([H:14])[C:4]1([C:5]([C:3]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])[O:8][C:6](=[O:9])[H:12]>>[C:1]([C:2]([C:6](=[O:9])[H:12])([H:13])[H:14])([C:4]([C:5]([C:3]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])=[O:8])([H:10])[H:11],54.69227250002661
MR_131231_0,[C:1]([C:5](=[C:4]([N:7]([H:10])[H:11])[N:8]([H:12])[H:13])/[C:6]([C:2]([H:18])([H:19])[H:20])=[C:9](\[C:3]([H:21])([H:22])[H:23])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:5]1=[C:6]([C:2]([H:18])([H:19])[H:20])[C:9]([C:3]([H:21])([H:22])[H:23])([H:14])[C:4]1([N:7]([H:10])[H:11])[N:8]([H:12])[H:13])([H:15])([H:16])[H:17],43.8490724999734
MR_36673_1,[C:1]([C:3]([C:2]([O:8][H:10])([H:13])[H:14])([H:15])[H:16])([C:4]([H:17])([H:19])[H:20])([C:5]([H:18])([H:21])[H:22])[C:6]([N:7]([H:11])[H:12])=[O:9]>>[C:1]([C:3]([C:2](=[O:8])[H:13])([H:15])[H:16])([C:4]([H:17])([H:19])[H:20])([C:5]([H:18])([H:21])[H:22])[C:6]([N:7]([H:11])[H:12])([O:9][H:10])[H:14],51.51649500001909
MR_504894_1,[C:1](/[C:4]([C:3]12[N:2]([H:9])[N:7]1[C:5]([H:11])=[C:6]2[H:12])=[N:8]\[H:10])([H:13])([H:14])[H:15]>>[C:1](/[C:4]([c:3]1[n:2]([H:9])[n:7][c:5]([H:11])[c:6]1[H:12])=[N:8]\[H:10])([H:13])([H:14])[H:15],20.92210499996725
MR_252906_2,[C:1]([C:3](/[C:2]([N:4]([H:9])[H:10])=[N:7]/[O:6][H:8])=[C:5]([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([C:3]1=[C:2]([N:4]([H:9])[H:10])[N:7]([O:6][H:8])[C:5]1([H:14])[H:15])([H:11])([H:12])[H:13],46.28502749999399
